US05250543
a) Preparation of dimethyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate
A mixture of 75.5 g (0.50 mole) of 3-nitrobenzaldehyde, 116 g (1.00 mole) of methyl acetoacetate and 55 ml (1.50 mole) of 28% ammonia in 150 ml of methanol is heated under reflux for 5 hr.

reactant | 3-nitrobenzaldehyde | 0.50 mole, 75.5 g | [N+](=O)([O-])C=1C=C(C=O)C=CC1 | C7H5NO3
reactant | methyl acetoacetate | 1.00 mole, 116 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | ammonia | 1.50 mole, 55 ml | N | H3N
solvent | methanol | 150 ml | CO | CH4O
product | dimethyl 2,6-dimethyl-4-(3-nitrophenyl)-1,4-dihydropyridine-3,5-dicarboxylate | CC=1NC(=C(C(C1C(=O)OC)C1=CC(=CC=C1)[N+](=O)[O-])C(=O)OC)C | C17H18N2O6
